US03936465
C. 1-[3-(5-Indanyl)propyl]piperidine
The crude 3-(5-Indanyl)-1-bromopropane (13.0 g, 0.054 M) is dissolved in 200 ml toluene and treated with 50 g of piperidine. The mixture is heated under reflux overnight, then cooled and diluted with ether to precipitate salts. The salts are removed by filtration and the solvent removed from the filtrate in vacuo. The residue is distilled collecting 8.4 g (64%) of desired product boiling at 135°-140° (0.15 mm).

reactant | 3-(5-Indanyl)-1-bromopropane | 0.054 M, 13.0 g | C1CCC2=CC(=CC=C12)CCCBr | C12H15Br
reactant | piperidine | 50 g | N1CCCCC1 | C5H11N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 1-[3-(5-Indanyl)propyl]piperidine | C1CCC2=CC(=CC=C12)CCCN1CCCCC1 | C17H25N
